US05338855
5-[4-(2,4,5-Trimethyl-3,6-dimethoxyphenoxy)benzyl]thiazolidine-2,4-dione
A mixture of 5.7 g of butyl 2-bromo-3-[4-(2,4,5-trimethyl-3,6-dimethoxyphenoxy)phenyl]propionate (prepared as described in Preparation 1), 1.2 g of thiourea and 10 ml of sulfolane was heated at 120° C. for 5 hours under an atmosphere of nitrogen, and then 20 ml of ethylene glycol monomethyl ether and 10 ml of 2N aqueous hydrochloric acid were added to the resulting mixture. The mixture was then heated at 100° C. for 5 hours, after which the reaction mixture was poured into water and then extracted with benzene. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was removed from the extract by distillation under reduced pressure, and the residue thus obtained was purified by column chromatography through silica gel, using a 9:1 by volume mixture of benzene and ethyl acetate as the eluent, to give 4.7 g of the title compound as a white glassy powder softening at 47°-50° C.

reactant | butyl 2-bromo-3-[4-(2,4,5-trimethyl-3,6-dimethoxyphenoxy)phenyl]propionate | 5.7 g | BrC(C(=O)OCCCC)CC1=CC=C(C=C1)OC1=C(C(=C(C(=C1OC)C)C)OC)C | C24H31BrO5
reactant | thiourea | 1.2 g | NC(=S)N | CH4N2S
reactant | sulfolane | 10 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
solvent | water | O | H2O
solvent | ethylene glycol monomethyl ether | 20 ml | COCCO | C3H8O2
product | 5-[4-(2,4,5-Trimethyl-3,6-dimethoxyphenoxy)benzyl]thiazolidine-2,4-dione | 4.7 g | CC1=C(OC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C(=C(C(=C1OC)C)C)OC | C21H23NO5S
